US07709471B2
4-methoxy-N-(1-methyl-4-piperidyl)-3-nitro-benzamide
3-Nitro-4-methoxybenzoic acid (Aldrich; 300 mg, 1.52 mmol), 1-methyl-4-aminopiperidine (Fluorochem; 174 mg, 1.52 mmol), HATU (868 mg, 2.28 mmol) and DIPEA (796 uL, 4.56 mmol) were stirred in DMF (6 mL) at room temperature for 2 hours. The reaction mixture was loaded onto an SCX-3 column pre-washed with methanol. The column was washed with methanol and then eluted with 2% 7N ammonia/methanol. Product containing fractions were combined and evaporated to give the title compound as an orange solid (341 mg, 76.4%).

reactant | 3-Nitro-4-methoxybenzoic acid | 1.52 mmol, 300 mg | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1OC | C8H7NO5
reactant | 1-methyl-4-aminopiperidine | 1.52 mmol, 174 mg | CN1CCC(CC1)N | C6H14N2
reactant | HATU | 2.28 mmol, 868 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.56 mmol, 796 uL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-methoxy-N-(1-methyl-4-piperidyl)-3-nitro-benzamide | 341 mg, 76.4% | COC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)[N+](=O)[O-] | C14H19N3O4
